US04611023
1,1-Bis(3,5-di-tert-butyl-4-hydroxyphenylthio)cyclohexane
The procedure of Example 1 was repeated using 28.71 grams of 2.6-di-tert-butyl-4-mercaptophenol, 5.91 grams of cyclohexanone, and 150 ml of methyl alcohol. The product is triturated with methyl alcohol to give 31.17 grams (93.3% yield) of white solid, mp 195°-197° C.

reactant | 2.6-di-tert-butyl-4-mercaptophenol | 28.71 grams | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | cyclohexanone | 5.91 grams | C1(CCCCC1)=O | C6H10O
solvent | methyl alcohol | 150 ml | CO | CH4O
product | 1,1-Bis(3,5-di-tert-butyl-4-hydroxyphenylthio)cyclohexane | 31.17 grams, 93.3% yield | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC1(CCCCC1)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C34H52O2S2
